US07915250B2
A solution of 1-(trimethylsiloxy)cyclohexene (200 mg, 1.17 mmol) and benzyl 3-oxoazetidine-1-carboxylate (289 mg, 1.41 mmol), prepared using procedures similar to those described in Reference 3, in tetrahydrofuran (3.90 mL) was cooled to −78° C. for 10 minutes followed by the addition of titanium tetrachloride (0.13 mL, 1.17 mmol). The reaction mixture stirred for an additional 5 hours at −78° C. The mixture was quenched with aqueous sodium bicarbonate and the aqueous layer was extracted with ether (2×). The organic layer was separated, dried over anhydrous sodium sulfate, filtered and the filtrate was concentrated in vacuo. The residue was purified on silica gel chromatography column (3:2 hexanes/ethyl acetate) to afford benzyl 3-hydroxy-3-(2-oxocyclohexyl)azetidine-1-carboxylate (328 mg, 37%). 1H NMR (CDCl3): 7.28-7.34 (m, 5H), 5.08 (s, 2H), 4.02 (d, 1H), 3.89 (d, 1H), 3.87 (s, 1H), 3.55 (s, 1H), 2.71 (q, 1H), 2.29-2.43 (m, 2H), 2.11 (s, 2H), 1.95 (s, 1H), 1.66 (d, 3H); MS (EI) for C17H21NO4: 303 (MH+).

reactant | 1-(trimethylsiloxy)cyclohexene | 1.17 mmol, 200 mg | C[Si](OC1=CCCCC1)(C)C | C9H18OSi
reactant | benzyl 3-oxoazetidine-1-carboxylate | 1.41 mmol, 289 mg | O=C1CN(C1)C(=O)OCC1=CC=CC=C1 | C11H11NO3
solvent | tetrahydrofuran | 3.90 mL | O1CCCC1 | C4H8O
catalyst | titanium tetrachloride | 1.17 mmol, 0.13 mL | [Ti](Cl)(Cl)(Cl)Cl
product | benzyl 3-hydroxy-3-(2-oxocyclohexyl)azetidine-1-carboxylate | 328 mg, 37% | OC1(CN(C1)C(=O)OCC1=CC=CC=C1)C1C(CCCC1)=O | C17H21NO4
